Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / vancomycin / Penicillins / morphine / ampicillin / 
Flagyl
 
Attending: ___
 
Chief Complaint:
Flank ___, hypotension
 
Major Surgical or Invasive Procedure:
midline placement

 
History of Present Illness:
___ year old gentleman history of spina bifida, chronic 
nephrolithiasis (with intermittent obstruction), chronic UTI's, 
chronic hydronephrosis, s/p neobladder with ileal conduit, 
numerous hospitalizations (admitted ___, 
upper extremity DVT's in setting of midline in ___ 
currently on coumadin, presenting with 1 day of fever, n/v; 
chronic right flank ___ chronic L posterior knee wound 
secondary to friction against wheelchair.

Of note, the patient was recently admitted in ___ for 
persistent flank ___ which resolved and was not thought to have 
pyelonephritis at that time. Previously, he has had multiple (>3 
in the past 6 months) admissions for UTI as well as 
non-infectious right flank ___ ever since getting his urostomy 
a few years ago. His cultures have grown MDR E. coli, 
Klebsiella, Staph aureus, Enterococcus, and Proteus.
 
In the ED, initial vitals:  
T100.0 (Tmax 101.8)  ___  BP ___   RR18  O2Sat 100% RA
Labs were significant for  UA with >182 WBC drawn from urostomy 
bag, lactate 1.5, WBC 12.6. 
Imaging revealed: CT abdomen with striated nephrogram on the 
left is concerning for pyelonephritis, Several punctate 
nonobstructing stones are seen in the right kidney.ECG 
significant for sinus tachycardia
The patient was given CefePIME 2 g, Dilaudid 1 mg, ondansetron 4 
mg, 2 L NS, Clindamycin 600 mg, Acetaminophen 1000 mg IV 
Meropenem 1000 mg  
 
 
On transfer, vitals were: T99.5 ___ BP113/54  RR16  O2 Sat 97% 
RA  
On arrival to the MICU, patient was comfortable-appearing and 
complaining of mild right flank ___.

 
Past Medical History:
# Spina bifida, wheelchair-bound, cognitively intact  
# Nephrolithiasis  
# recurrent UTI  (pt has had 10 CT scans abd/pelvis in ___ so 
far)
# Ileal conduit for neurogenic bladder    
# Ileal loop stomatitis  
# chronic right Flank ___ of undetermined etiology, ultimately 
attributed to neuropathy   
# VP shunt  
# Cellulitis of left lower extremity (___)  
# DVT's upper extremity (in setting of midline) currently on 
coumadin
# hypertension
 
Social History:
___
Family History:
Mother ___ Comment: CAD, MI and CHF 
Father: ___ cancer at age ___
Sister with kidney stones  
 
Physical Exam:
GENERAL: AOx3, conversant and appropriate.  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly. Urostomy pink, 
protuberant, productive of clear yellow urine. +R CVA 
tenderness.  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Large pressure ulcer over left popliteal fossa without 
erythema or induration or purulence.
 
Pertinent Results:
ADMISSION LABS
====================================
___ 05:30PM BLOOD WBC-12.6*# RBC-4.44* Hgb-12.4* Hct-37.6* 
MCV-85 MCH-27.9 MCHC-33.0 RDW-13.7 RDWSD-42.2 Plt ___
___ 05:30PM BLOOD Neuts-82.9* Lymphs-8.2* Monos-8.2 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-10.47* AbsLymp-1.03* 
AbsMono-1.04* AbsEos-0.01* AbsBaso-0.04
___ 05:30PM BLOOD Plt ___
___ 05:30PM BLOOD Glucose-116* UreaN-19 Creat-0.9 Na-134 
K-4.4 Cl-99 HCO3-20* AnGap-19
___ 05:30PM BLOOD estGFR-Using this
___ 05:30PM BLOOD LtGrnHD-HOLD
___ 05:47PM BLOOD Lactate-1.5
___ 06:00PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 06:00PM URINE Blood-SM  Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-LG
___ 06:00PM URINE RBC-24* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-0
___ 06:00PM URINE WBC Clm-MOD

MICRO:

___ 6:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 5:20 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:

CT ABD & PELVIS W & W/O CONTRA Clip # ___  
Reason: eval for obstructing kidney stone
Contrast: OMNIPAQUE Amt: 130
UNDERLYING MEDICAL CONDITION:
   History: ___ with hx of obstructing stones here with fever, 
flank ___
REASON FOR THIS EXAMINATION:
   eval for obstructing kidney stone
CONTRAINDICATIONS FOR IV CONTRAST:
   None.
Final Report
INDICATION:  History: ___ with hx of obstructing stones here 
with fever, flank
___  // eval for obstructing kidney stone
 
TECHNIQUE:  Pre and post contrast with split bolus: MDCT axial 
images were
acquired through the abdomen and pelvis prior to and following 
intravenous
contrast administration with split bolus technique. IV Contrast: 
 130 mL
Omnipaque.
Coronal and sagittal reformations were performed and reviewed on 
PACS.
Oral contrast was not administered.
 
DOSE:  DLP= 2250.14 mGy-cm
 
COMPARISON:  CT of the abdomen and pelvis dated ___ 
and ___.
 
FINDINGS: 
 
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no
evidence of pleural or pericardial effusion.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. 
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic
or extrahepatic biliary dilatation.  The gallbladder is within 
normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic
stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The patient is status post cystectomy, with right lower 
quadrant
ileal conduit.  There is an unchanged degree of ureteral 
fullness bilaterally,
consistent with chronic reflux.  The right kidney appears 
shrunken and
atrophic, and demonstrates a delayed nephrogram, similar to 
prior. 
Heterogeneous enhancement of the left kidney has the appearance 
of a striated
nephrogram, which is concerning for pyelonephritis.  
Furthermore, there is
mild left perinephric stranding.  Several punctate 
nonobstructing stones are
seen in the right kidney.  There is mild stranding is seen 
surrounding the
right ureter, similar to prior.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout.  The 
colon and
rectum are within normal limits.  The appendix is normal.
 
PELVIS:  Status post cystectomy.  Coarse calcifications are seen 
within the
prostate gland.  There is no free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The reproductive organs are unremarkable.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There
is no pelvic or inguinal lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease
is noted.
 
BONES:  The pelvis appears dysmorphic, with spina bifida and 
meningomyelocele.
 
SOFT TISSUES: Note is made of right parastomal hernia that 
contains the ileal
conduit.
 
IMPRESSION:
 
1. Striated nephrogram and mild perirenal stranding on the left 
is concerning
for pyelonephritis.
2. Status post cystectomy with right lower quadrant ileal 
conduit.  Unchanged
degree of ureteral fullness bilaterally, consistent with chronic 
reflux.  Mild
stranding is seen surrounding the right ureter, unchanged.
3.  Several punctate nonobstructing stones are seen in the right 
kidney.
 
 
Brief Hospital Course:
___ M h/o spina bifida, neurogenic bladder s/p ileal conduit 
urostomy with chronic hydronephrosis and recurrent UTI sometimes 
with pyelonephritis, presenting with fever, nausea, and chronic 
right flank ___ in the setting of severe sepsis with left 
pyelonephritis.

#Severe sepsis and left hydronephrosis: 
Febrile, tachycardic, and intermittently hypotensive, with 
normal lactate. The most likely source is his urine as his CT 
abd is indicative of pyelo. UA is difficult to analyze due to 
urostomy bag. Other possible sources of sepsis include LLE 
lesion and coccygeal ulcer. Blood cultures were negative and 
urine cx grew mixed flora, however given his clinical 
presentation, CT findings and micro history including resistant 
pathogens, opted to treat empirically with meropenem. He was 
stabilized and transferred to medical floor on the night of 
___. He was febrile that night but subsequently defervesced and 
remained hemodynamically stable. HIs antihypertensives were held 
as he remained normotensive. 

# acute on chronic right flank ___:
He continued to report severe right flank ___, acute on 
chronic, on the opposite side of his known pyelonephritis. He 
has had this ___ for ___ years, and he reports acute exacerbation 
whenever he is hospitalized with a UTI. He appears very 
comfortable, working on his mobile phone, eating, talking to his 
wife at bedside, and still reports severe ___. There is no 
clear etiology for this ___, which I have discussed with him at 
length during prior admissions, and I explained this is likely 
neuropathic ___. Neuropathic ___ has been associated with 
spina bifida. He is on high doses of narcotics, and he reports 
"they don't even touch the ___ As such, there is no reason to 
continue these narcotics, and narcotics have been shown to be 
ineffective in the management of neuropathic ___. Ultimately he 
should be weaned off them, but this is deferred to his 
outpatient physician in the ___ Clinic Dr ___. In 
addition, there is no indication for IV narcotics, which he 
requested. I started Mr ___ on gabapentin during a prior 
admission, and I asked if this helped. He said he doesnt recall, 
nor does he recall if he had any adverse effect which led to 
their discontinuation. OMR was reviewed including notes from 
___ Svc, and there is no documented reason why gabapentin was 
discontinued. There was documented good response to ultram. I 
paged Dr ___ to discuss, and pt agreed to try gabapentin and 
ultram again. Gabapentin was slowly titrated up, with further 
titration deferred to the outpatient setting. On the day of 
discharge, he continued to report uncontrolled ___, but he was 
stable to continue ___ mgmt in the outpt setting.

# bilateral upper extremity DVT, dx ___: 
Pt was maintained on warfarin with close monitoring INR while on 
abx. Standard of care is three mos anticoagulation, as the 
source of thrombus was removed. Howevere, since a midline was 
placed for another course abx, the decision was made to extend 
anticoagulation for another two weeks until midline is removed. 
Warfarin can be discontinued at that point. Discussed with pt, 
who expressed understanding and agreement. 

#Spina bifida:
- Continue baclofen

# hypertension:
As noted above, antihypertensives were held since he presented 
with severe sepsis and hypotension. He remained normotensive on 
the medical floor, and antihypertensives were not restarted at 
the time of discharge. He is to f/u with PCP to address 
when/whether these should be restarted. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN ___ 
4. Warfarin 5 mg PO DAILY16 
5. Baclofen 15 mg PO TID 

 
Discharge Medications:
1. Baclofen 15 mg PO TID 
2. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN ___ 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
3. Warfarin 6 mg PO DAILY16 
4. Ertapenem Sodium 1 g IV ONCE Duration: 1 Dose 
RX *ertapenem [Invanz] 1 gram 1 g IV daily Disp #*10 Vial 
Refills:*0
5. TraMADOL (Ultram) 100 mg PO QID 
RX *tramadol 50 mg 2 tablet(s) by mouth every six (6) hours Disp 
#*120 Tablet Refills:*0
6. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# sepsis
# left UTI/pyelonephritis, organism unspecified
# acute on chronic right flank ___, attributed to neuropathy

SECONDARY:
# spina bifida
# neurogenic bladder
# hypertension

# sepsis
# left UTI/pyelonephritis, organism unspecified
# acute on chronic right flank ___, attributed to neuropathy

SECONDARY:
# spina bifida
# neurogenic bladder
# hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
please see below

 
Followup Instructions:
___